### PR TITLE
[Merged by Bors] - feat(Algebra): Transcendence degree

### PR DESCRIPTION
**Pull request by alreadydone**
Define transcendence degree `Algebra.trdeg` and proves some basic properties:

In **AlgebraicIndependent/Basic.lean**: define `Algebra.trdeg` to be the supremum of the cardinalities of all AlgebraicIndependent sets, just like `Module.rank` is defined to be the supremum of the cardinalities of all LinearIndependent sets. Add some API lemmas and trivial results about `trdeg`, e.g. that injective/surjective AlgHoms induce inequalities between `trdeg`s, and AlgEquivs induce equalities.

In **AlgebraicIndependent/Transcendental.lean**: add API lemmas and show the inequality `trdeg R S + trdeg S A ≤ trdeg R A` (which does not require a domain).

In **AlgebraicIndependent/Defs.lean**: add Stacks tags and some trivial API lemmas about IsTranscendenceBasis.

Thanks to Chris Hughes and Jz Pan for preliminary works and Peter Nelson for the hint about Finitary and IndepMatroid.

TODO:

+ [The analogue of StrongRankCondition](https://mathoverflow.net/a/484564) in the setting of algebras, which implies `trdeg R (MvPolynomial (Fin n) R) = n` for all Nontrivial CommRing R.

---

- [x] depends on: #20888
- [x] depends on: #21512
- [x] depends on: #21566

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean [hunk 1]
```diff
@@ -125,3 +233,204 @@ theorem IsTranscendenceBasis.isAlgebraic_field {F E : Type*} {x : ι → E}
...
+      · exact isAlgebraic_algebraMap (⟨x, subset_adjoin hI⟩ : RI)
+      contrapose! h
+      exact ⟨x, ⟨hB, hI⟩, (insert_iff hI).mpr ⟨I_ind, h⟩⟩
+    exact .trans' (R := RI) (S := RIB) Subtype.val_injective
+  indep_maximal X _ I ind hIX := exists_maximal_algebraicIndependent I X hIX ind
+  subset_ground _ _ := subset_univ _
+
+/-- If `R` is a commutative ring and `A` is a commutative `R`-algebra with injective algebra map
+and no zero-divisors, then the `R`-algebraic independent subsets of `A` form a matroid. -/
+def matroid : Matroid A := (indepMatroid inj).matroid
```
Comment (apnelson1) [inline Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:280]: `def matroid : Matroid A := (indepMatroid inj).matroid.copyBase univ 
  (fun s ↦ IsTranscendenceBasis R ((↑) : s → A)) 
  (fun B ↦ by rw [Matroid.base_iff_maximal_indep, isTranscendenceBasis_iff_maximal]; rfl)`

for defeq with `M.Base`. 

(I haven't tested this)

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean [hunk 2]
```diff
@@ -98,6 +114,98 @@ theorem IsTranscendenceBasis.isAlgebraic [Nontrivial R] (hx : IsTranscendenceBas
...
+/-- If `s ⊆ t` are subsets in an `R`-algebra `A` such that `s` is algebraically independent over
+`R`, and `A` is algebraic over the `R`-algebra generated by `t`, then there is a transcendence
+basis of `A` over `R` between `s` and `t`, provided that `A` is a domain.
+
+This may fail if only `R` is assumed to be a domain but `A` is not, because of failure of
+transitivity of algebraicity: there may exist `a : A` such that `S := R[a]` is algebraic over
+`R` and `A` is algebraic over `S`, but `A` nonetheless contains a transcendental element over `R`.
+The only `R`-algebraically independent subset of `{a}` is `∅`, which is not a transcendence basis.
+See the docstring of `IsAlgebraic.restrictScalars_of_isIntegral` for an example. -/
+theorem exists_isTranscendenceBasis_between [NoZeroDivisors A] (s t : Set A) (hst : s ⊆ t)
```
Comment (apnelson1) [inline Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:171]: This looks like `Algebra.IsAlgebraic (adjoin R t) A` might be equivalent to `(AlgebraicIndependent.matroid _).Spanning t`. If so, the API for `Spanning` could be helpful going forward.

Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:171]: Indeed, that's very satisfying! Might be able to golf a proof with it. Also I think `closure` is equal to `Subalgebra.algebraicClosure` of `Algebra.adjoin`.

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean [hunk 3]
```diff
@@ -125,3 +233,204 @@ theorem IsTranscendenceBasis.isAlgebraic_field {F E : Type*} {x : ι → E}
...
+
+theorem lift_cardinalMk_eq_trdeg_iff (hx : AlgebraicIndependent R x) (fin : trdeg R A < ℵ₀) :
+    lift.{w} #ι = lift.{u} (trdeg R A) ↔ IsTranscendenceBasis R x := by
+  refine ⟨fun h ↦ ?_, (·.lift_cardinalMk_eq_trdeg)⟩
+  have := mk_lt_aleph0_iff.mp (lift_lt_aleph0.mp (lift_aleph0 ▸ h ▸ lift_lt.{_, u}.mpr fin))
+  exact (lift_cardinalMk_eq_trdeg_iff_of_finite hx).mp h
+
+theorem cardinalMk_eq_trdeg_iff {ι : Type w} {x : ι → A} (hx : AlgebraicIndependent R x)
+    (fin : trdeg R A < ℵ₀) : #ι = trdeg R A ↔ IsTranscendenceBasis R x := by
+  rw [← lift_cardinalMk_eq_trdeg_iff hx fin, lift_id, lift_id]
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:417]: `trdeg` is a kind of `rank`, right? I think all these probably have generalizations to matroids.

Comment (apnelson1) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:417]: Yes, if it's 'maximum cardinality of an independent subset', then it's matroidal rank. A lot of API for this should belong in `Matroid.Rank.Cardinality` once it's up and running.

Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:417]: Is Cardinality a different file than Cardinal.lean I added in #20888?

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean (hunk 2 above)
Comment (apnelson1) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:171]: Possibly the way to organize things if you want to go this way is to have a file `Data.Matroid.Algebraic` that has the definition, as well as a bunch of lemmas like `spanning_iff`, `base_iff`, `flat_iff`, etc that relate the transcendence basis concepts to the matroid concepts. 

Then proofs for transcendence bases of matroidal facts will follow from rewrites and `Matroid` lemmas. For example, the above lemma is just `Indep.exists_base_subset_spanning` from #20885

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean (hunk 3 above)
Comment (apnelson1) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:417]: I meant `Cardinal`, sorry.

File: Mathlib/RingTheory/AlgebraicIndependent/Basic.lean [hunk 4]
```diff
@@ -130,6 +146,20 @@ theorem AlgHom.algebraicIndependent_iff (f : A →ₐ[R] A') (hf : Injective f)
...
+    IsTranscendenceBasis R x ↔ Nonempty ι := by
+  have := Module.subsingleton R A
+  refine ⟨fun h ↦ ?_, fun h ↦ ⟨algebraicIndependent_of_subsingleton,
+    fun s hs hx ↦ hx.antisymm fun a _ ↦ ⟨Classical.arbitrary _, Subsingleton.elim ..⟩⟩⟩
+  by_contra hι; rw [not_nonempty_iff] at hι
+  have := h.2 {0} algebraicIndependent_of_subsingleton
+  simp [range_eq_empty, eq_comm (a := ∅)] at this
+
+theorem trdeg_subsingleton [Subsingleton R] : trdeg R A = 1 :=
+  have := Module.subsingleton R A
```
Comment (acmepjz) [inline Mathlib/RingTheory/AlgebraicIndependent/Basic.lean:159]: Maybe mark this as `@[nontriviality]`? Perhaps same as the above `isTranscendenceBasis_iff_of_subsingleton`.

File: Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean [hunk 5]
```diff
@@ -70,30 +73,60 @@ theorem isEmpty_of_isAlgebraic [Algebra.IsAlgebraic R A] : IsEmpty ι := by
...
   rw [algebraicIndependent_iff_injective_aeval, transcendental_iff_injective,
     ← AlgHom.coe_toRingHom, ← hx.aeval_comp_mvPolynomialOptionEquivPolynomialAdjoin,
     RingHom.coe_comp]
   exact Injective.of_comp_iff' (Polynomial.aeval a)
     (mvPolynomialOptionEquivPolynomialAdjoin hx).bijective
 
-/-- Variant of `algebraicIndependent_of_finite_type` using `Transcendental`. -/
-theorem algebraicIndependent_of_finite_type'
-    (hinj : Injective (algebraMap R A))
+theorem AlgebraicIndependent.optionElim_iff {a : A} :
```
Comment (acmepjz) [inline Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean:90]: The name of this theorem is a little bit confusing, probably because the previous `AlgebraicIndependent.option_iff` is also. Both of them mentions `Option.elim`, and seems that the existing `AlgebraicIndependent.option_iff` is just a special case of `AlgebraicIndependent.optionElim_iff`. Do you think we should called the existing one `option_iff_transcendental`, and the newly added one `option_iff`?

**Review by acmepjz — COMMENTED** [review]
Thank you very much!

**Comment by acmepjz** [comment]
> TODO:
> 
> * Inequalities between `trdeg`s induced by injective/surjective AlgHom, and equality induced by AlgEquiv.

I think injective AlgHom version should be a consequence of your `lift_trdeg_add_le`, and `AlgEquiv` version is a corollary of it (by the inequality of injectivity of the map and its inverse). I'm not sure of surjective AlgHom version, though.

**Comment by alreadydone** [comment]
Thanks, I'll think about these. I'm not sure what the more general statements are; are they easy to state and apply? My original thought is to mimic the LinearIndependent proofs (for injectivity, use AlgebraicIndependent iff `Injective aeval` and `Injective.comp`; for surjectivity, lift any AlgebraicIndependent set and use `Injective.of_comp`). Re EDIT3: if R → S is injective then `trdeg S A ≤ trdeg R A` holds, but if it's not injective and `trdeg S A > 0` then it fails. I've thought about defining `trdeg' R A = trdeg (Algebra.ofId R A).range A` which may be better behaved / easier to use.

**Comment by acmepjz** [comment]
> I'm not sure what the more general statements are; are they easy to state and apply?

I mean a generalization which uses `RingHom` instead of `AlgHom`; its statements should be exactly that of [AlgebraicIndependent.ringHom_of_comp_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/AlgebraicIndependent/Basic.html#AlgebraicIndependent.ringHom_of_comp_eq) and [AlgebraicIndependent.of_ringHom_of_comp_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/AlgebraicIndependent/Basic.html#AlgebraicIndependent.of_ringHom_of_comp_eq) (the latter needs moreover `Surjective g`).

> Re EDIT3: if R → S is injective then `trdeg S A ≤ trdeg R A` holds, but if it's not injective and `trdeg S A > 0` then it fails. I've thought about defining `trdeg' R A = trdeg (Algebra.ofId R A).range A` which may be better behaved / easier to use due to built-in injectivity.

Oh I see. Maybe `trdeg'` is a good idea.

**Comment by alreadydone** [comment]
I realized `trdeg'` is still not well-behaved; if S=R[X] but S → A = R[X] sends X to 0, then `trdeg' R S = trdeg' S A = trdeg' R A = 1`. But if R and S are subalgebras of A then injectivity is definitely satisfied, so maybe some `Subalgebra.reltrdeg` is a good idea.

**Comment by acmepjz** [comment]
> I realized `trdeg'` is still not well-behaved

Maybe just forget it for now; in this PR we only define `trdeg` and requires injectivity if it's needed.

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean (hunk 3 above)
Comment (apnelson1) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:417]: See #20921, which defines the rank function you want. (Note that you're delegated, so you can merge if it looks good). This should provide a way to define `trdeg` in terms of the matroid.

Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:417]: Thanks! A bit busy right now but will review/merge later today. The current definition of trdeg doesn't require NoZeroDivisors, but it's required to get a matroid. So I think what I'll do is to show trdeg is equal to matroid rank in a domain.

File: Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean:90]: Okay, let me do what you said.

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:410]: @apnelson1 The following should be true for an arbitrary matroid M; do you already have them somewhere? If not I'll include them in this PR.
```
theorem finiteRk_iff_cRank_lt_aleph0 : M.FiniteRk ↔ M.cRank < ℵ₀ := by
  rw [finiteRk_iff]
  refine ⟨fun ⟨B, base, fin⟩ ↦ ?_, ?_⟩ <;> sorry

theorem Indep.base_iff_eq_cRank [M.FiniteRk] (ind : M.Indep I) : M.Base I ↔ #I = M.cRank := by
  sorry

theorem Spanning.base_iff_eq_cRank [M.FiniteRk] (h : M.Spanning X) : M.Base X ↔ #X = M.cRank := by
  sorry

theorem Indep.base_iff_eq_cRank_of_lt_aleph0 (lt : #I < ℵ₀) (ind : M.Indep I) :
    M.Base I ↔ #I = M.cRank := by
  sorry

theorem Spanning.base_iff_eq_cRank_of_lt_aleph0 (lt : #X < ℵ₀) (h : M.Spanning X) :
    M.Base X ↔ #X = M.cRank := by
  sorry
```

Comment (apnelson1) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:410]: I don't have these, no. They make sense and I'd be happy to have them, although might this be scope creep for this PR?

Comment (acmepjz) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:410]: Maybe in another PR and this PR also depends on it.

Comment (apnelson1) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:410]: Perhaps a comment is that [this file](https://github.com/apnelson1/Matroid/blob/main/Matroid/Rank/Finite.lean) contains a `FinRk` definition that is a more general version of the `Finite` hypotheses in your lemmas. I can PR that soon if it makes sense to do things that way.

Comment (apnelson1) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:410]: (It is basically a leaf file that is ready to go in one PR)

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean [hunk 6]
```diff
@@ -125,3 +208,299 @@ theorem IsTranscendenceBasis.isAlgebraic_field {F E : Type*} {x : ι → E}
...
+
+theorem matroid_base_iff {s : Set A} :
+    (matroid inj).Base s ↔ IsTranscendenceBasis R ((↑) : s → A) := Iff.rfl
+
+theorem matroid_cRank_eq : (matroid inj).cRank = trdeg R A :=
+  (trdeg_eq_iSup_cardinalMk_isTranscendenceBasis _).symm
+
+end
+
+theorem matroid_basis_iff [IsDomain A] {s t : Set A} : (matroid inj).Basis s t ↔
```
Comment (alreadydone) [inline Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:264]: @apnelson1 
I've established algebraic characterization of `Basis`, `closure`, `Flat`, and `Spanning` for the algebraic independence matroid starting from here. It turns out it's easier to first characterize `closure` before proceeding to `Flat`. I also added two missing Matroid lemmas which I'll add to #21512.

File: Mathlib/Data/Matroid/Rank/Cardinal.lean [hunk 7]
```diff
@@ -342,4 +356,34 @@ instance invariantCardinalRank_comap (M : Matroid β) [InvariantCardinalRank M]
...
+  ind.base_of_maximal fun _J ind_J hIJ ↦ ind.finite.eq_of_subset_of_encard_le' hIJ <|
+    toENat.monotone' <| ind_J.cardinalMk_le_cRank.trans le
+
+theorem Spanning.base_of_le_cRank [M.FiniteRk] (h : M.Spanning X) (le : #X ≤ M.cRank) :
+    M.Base X := by
+  have ⟨B, hB, hBX⟩ := h.exists_base_subset
+  rwa [← hB.finite.eq_of_subset_of_encard_le' hBX
+    (toENat.monotone' <| le.trans (hB.cardinalMk_eq_cRank).ge)]
+
+theorem Indep.base_of_cRank_le_of_finite (ind : M.Indep I)
```
Comment (apnelson1) [inline Mathlib/Data/Matroid/Rank/Cardinal.lean:377]: Isn't this the older version of this section before these were golfed?

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean [hunk 8]
```diff
@@ -125,3 +208,299 @@ theorem IsTranscendenceBasis.isAlgebraic_field {F E : Type*} {x : ι → E}
...
+    s.AlgebraicIndependent R ∧ s ⊆ t ∧ ∀ a ∈ t, IsAlgebraic (adjoin R s) a := by
+  rw [Matroid.Basis, maximal_iff_forall_insert fun s t h hst ↦ ⟨h.1.subset hst, hst.trans h.2⟩]
+  simp_rw [matroid_indep_iff, ← and_assoc, matroid_e, subset_univ, and_true]
+  exact and_congr_right fun h ↦ ⟨fun max a ha ↦ of_not_not fun tr ↦ max _
+    (fun ha ↦ tr (isAlgebraic_algebraMap (⟨a, subset_adjoin ha⟩ : adjoin R s)))
+      ⟨.insert h.1 tr, insert_subset ha h.2⟩,
+    fun alg a ha h ↦ ((insert_iff ha).mp h.1).2 (alg _ <| h.2 <| mem_insert ..)⟩
+
+theorem matroid_basis_iff_of_subsingleton [Subsingleton A] {s t : Set A} :
```
Comment (apnelson1) [inline Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:273]: This lemma is an ad hoc consequence of the fact that your matroid is `Loopless`; i.e. singletons are independent.  (see https://github.com/apnelson1/Matroid/blob/main/Matroid/Loop.lean )

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean [hunk 9]
```diff
@@ -125,3 +208,299 @@ theorem IsTranscendenceBasis.isAlgebraic_field {F E : Type*} {x : ι → E}
...
+    (matroid inj).Flat s ↔ ∃ S : Subalgebra R A, S = s ∧ ∀ a : A, IsAlgebraic S a → a ∈ s := by
+  rw [Matroid.flat_iff_closure_eq, matroid_closure_eq]
+  set S := algebraicClosure (adjoin R s) A
+  refine ⟨fun eq ↦ ⟨S.restrictScalars R, eq, fun a (h : IsAlgebraic S _) ↦ ?_⟩, ?_⟩
+  · rw [← eq]; exact h.restrictScalars (adjoin R s)
+  rintro ⟨s, rfl, hs⟩
+  refine Set.ext fun a ↦ ⟨(hs _ <| adjoin_eq s ▸ ·), fun h ↦ ?_⟩
+  exact isAlgebraic_algebraMap (A := A) (by exact (⟨a, subset_adjoin h⟩ : adjoin R s))
+
+theorem matroid_flat_of_subsingleton [Subsingleton A] (s : Set A) : (matroid inj).Flat s := by
```
Comment (apnelson1) [inline Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:305]: This, and the next lemma, is saying that your matroid is `Simple` - i.e.  pairs are independent  https://github.com/apnelson1/Matroid/blob/main/Matroid/Simple.lean

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean [hunk 10]
```diff
@@ -125,3 +208,299 @@ theorem IsTranscendenceBasis.isAlgebraic_field {F E : Type*} {x : ι → E}
...
+
+namespace AlgebraicIndependent
+
+variable (inj : Injective (algebraMap R A))
+
+section
+
+variable [NoZeroDivisors A]
+
+private def indepMatroid : IndepMatroid A where
```
Comment (apnelson1) [inline Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:220]: Do you need injectivity for this definition to work? It looks to me like if you drop the injectivity assumption, you will still have a matroid, but it will fail to be `Loopless`/`Simple` - see comments below. 

At least for linearly representable matroids, it is a mistake to insist that representations are injective  - for a start, it means they aren't closed under taking minors. I suspect something similar will be true here.

**Review by apnelson1 — COMMENTED** [review]
I think that (unless I'm misunderstanding something mathematical) defining a matroid with an injectivity assumption might cause problems later. Presumably if I have some 'repeated elements' in an algebra, I can still make a matroid - these elements will just be parallel pairs in the matroid.

On the other hand possibly your definition makes sense as a 'matroid on an algebra', and then an 'algebraic matroid' on some indexing type is something that arises from a map from the type to an algebra.

Even though the `Simple` and `Loopless` typeclasses are only in my repo and not mathlib, they are on their way, and I think the ad hoc lemmas about looplessness and simplicity of algebraic matroids you have included won't be needed in the forms you're stating them, rather just as special cases of lemmas with instance arguments. Do you explicitly need them to make things work, or are they just intended as API?

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean (hunk 8 above)
Comment (apnelson1) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:273]: Ah, I've got this wrong - it is a consequence of the fact that there are no nontrivial parallel pairs, even though there is a loop (zero) element.

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean (hunk 10 above)
Comment (apnelson1) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:220]: Ok, I'm a little confused now. Is `{0}` an independent set in the matroid? If not, then it should be contained in the closure of the empty set, which would contradict your lemma about closures of subsingletons.

File: Mathlib/Data/Matroid/Rank/Cardinal.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/Data/Matroid/Rank/Cardinal.lean:377]: Yes, this diff will disappear once #21512 is merged into master and master is merged into this PR.

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean (hunk 10 above)
Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:220]: If R->A is not injective, then A does not have any R-algebraically independent subset, so `(AlgebraicIndependent R ·)` doesn't define a matroid, see [AlgebraicIndependent.algebraMap_injective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/AlgebraicIndependent/Basic.html#AlgebraicIndependent.algebraMap_injective). One can require R to be a subring of A, or consider the matroid defined by `(AlgebraicIndependent (range (algebraMap R A)) ·)` instead, but then the defeq becomes bad.

**Comment by alreadydone** [comment]
> Even though the `Simple` and `Loopless` typeclasses are only in my repo and not mathlib, they are on their way, and I think the ad hoc lemmas about looplessness and simplicity of algebraic matroids you have included won't be needed in the forms you're stating them, rather just as special cases of lemmas with instance arguments. Do you explicitly need them to make things work, or are they just intended as API?

I'm not really using the `of_subsingleton` lemmas, they're included just for completeness. In fact I don't need the two `Flat` lemmas either, because I can go directly from `closure` to `Spanning`. Once you add `Simple` and `Loopless` to mathlib I'd be happy to include these instances and golf these lemmas, maybe in a future PR. However notice that we're talking about the matroid on a singleton type where `Set.univ` is independent, which is the `freeOn` matroid. Is there a typeclass for that?

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean (hunk 10 above)
Comment (apnelson1) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:220]: Ah right, I misunderstood what the injectivity was doing. 

But what about my zero question?

**Comment by apnelson1** [comment]
> > Even though the `Simple` and `Loopless` typeclasses are only in my repo and not mathlib, they are on their way, and I think the ad hoc lemmas about looplessness and simplicity of algebraic matroids you have included won't be needed in the forms you're stating them, rather just as special cases of lemmas with instance arguments. Do you explicitly need them to make things work, or are they just intended as API?
> 
> I'm not really using the `of_subsingleton` lemmas, they're included just for completeness. In fact I don't need the two `Flat` lemmas either, because I can go directly from `closure` to `Spanning`. Once you add `Simple` and `Loopless` to mathlib I'd be happy to include these instances and golf these lemmas, maybe in a future PR. However notice that we're talking about the matroid on a singleton type where `Set.univ` is independent, which is the `freeOn` matroid. Is there a typeclass for that?

No, but perhaps there should be. It would be `RankZero M✶`, where `RankZero` is the negation of what is currently called`RkPos`.

**Comment by apnelson1** [comment]
> > > Even though the `Simple` and `Loopless` typeclasses are only in my repo and not mathlib, they are on their way, and I think the ad hoc lemmas about looplessness and simplicity of algebraic matroids you have included won't be needed in the forms you're stating them, rather just as special cases of lemmas with instance arguments. Do you explicitly need them to make things work, or are they just intended as API?
> > 
> > 
> > I'm not really using the `of_subsingleton` lemmas, they're included just for completeness. In fact I don't need the two `Flat` lemmas either, because I can go directly from `closure` to `Spanning`. Once you add `Simple` and `Loopless` to mathlib I'd be happy to include these instances and golf these lemmas, maybe in a future PR. However notice that we're talking about the matroid on a singleton type where `Set.univ` is independent, which is the `freeOn` matroid. Is there a typeclass for that?
> 
> No, but perhaps there should be. It would be `RankZero M✶`, where `RankZero` is the negation of what is currently called`RkPos`.

And I hadn't noticed the `Subsingleton` part - those lemmas make sense now, and aren't to do with simplicity/looplessness as I'd though.

File: Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean (hunk 10 above)
Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean:220]: {0} is algebraic independent over R iff R is a singleton.

File: Mathlib/RingTheory/AlgebraicIndependent/Defs.lean [hunk 11]
```diff
@@ -47,9 +47,13 @@ variable [CommRing R] [CommRing A] [CommRing A'] [Algebra R A] [Algebra R A']
 /-- `AlgebraicIndependent R x` states the family of elements `x`
   is algebraically independent over `R`, meaning that the canonical
   map out of the multivariable polynomial ring is injective. -/
-def AlgebraicIndependent : Prop :=
+@[stacks 030E "(1)"] def AlgebraicIndependent : Prop :=
   Injective (MvPolynomial.aeval x : MvPolynomial ι R →ₐ[R] A)
 
+/-- `s : Set A` is algebraic independent over `R` if the family `(↑) : s → A` is algebraic
+independent over `R`. -/
+protected abbrev Set.AlgebraicIndependent (s : Set A) : Prop := AlgebraicIndependent R ((↑) : s → A)
```
Comment (apnelson1) [inline Mathlib/RingTheory/AlgebraicIndependent/Defs.lean:55]: It seems like the design concerns here are analogous to linear independence, and it looks like `LinearIndependentOn` might become the solution, rather than having a predicate for sets. see #21799 and [this zulip discssion](`https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60Set.2Eincl.60/near/499308664`)

A specific problem with this definition is that it doesn't let one talk about algebraic independence of sets of indices for a non-injective function from a type to an algebra, and this will in turn make 'algebraic representations' of non-simple matroids hard to define. 

Could you consider definining `AlgebraicIndependentOn` here, and using `AlgebraicIndependentOn R id s` to spell this predicate?

Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/Defs.lean:55]: My purpose of introducing this abbrev is simply to shorten a common expression that appears many times across the AlgebraicIndependent files, and it's desirable to use dot notation to make it shorter. 

In order to define 'algebraic representations' of non-simple matroids, wouldn't you just say it's a function such that your matroid is Matroid.comap of some algebraic matroid via this function?
(By the way I find it interesting that people only consider such "faithful" representation of matroids), which is not the case for group and algebra representations. Maybe there isn't a good notion of general representations for matroids.)

Comment (apnelson1) [reply Mathlib/RingTheory/AlgebraicIndependent/Defs.lean:55]: By a representation of `M`, I mean a function `f` from the `M.E` to some algebra `A` such that matroid independence corresponds to algebraic independence of the image, but in the sense where two elements with the same image count as a dependency. This is indeed the same as `M` being a comap of the natural algebraic matroid whose ground set is `A`. 

I don't quite understand what you mean by 'faithful'ness here - is there a more general notion of matroid representation that you're alluding to? 

I'm of course speaking from the implicit perspective that the (abstract) matroid is the object you're being given, and the question is whether it has an algebraic representation. From where you're standing, I can understand if this seems weird. But for example, it is still an open question whether the matroid dual of an algebraic matroid is always algebraic, and that question is awkward to even state without the notion of an algebraic representation of an abstract matroid. (Note that duality does not respect simplicity). 

But more concretely, I think that `AlgebraicIndependentOn` would be a useful definition that has your abbrev `Set.AlgebraicIndependent` as a special case, and that refactoring this PR slightly to include it would save future work.

Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/Defs.lean:55]: I agree that `AlgebraicIndependentOn` will be more convenient when studying algebraic representations, but I don't see why `Set.AlgebraicIndependent` must be defined in terms of it. I think it suffices to have an iff lemma to rewrite between `AlgebraicIndependentOn R id s` and `s.AlgebraicIndependent R`.

By "faithful" I mean you can recover the matroid from any representation, which you can't generally do with e.g. group representations; for example, in the trivial representation, every element of the group acts as the identity on the vector space. (Of course, the trivial representation always exists, while matroid representations don't always.)

Comment (apnelson1) [reply Mathlib/RingTheory/AlgebraicIndependent/Defs.lean:55]: Ok, fair enough - I mainly wanted to point out that your design is diverging from that of linear independence, both in its old form and the form it's currently being updated to - there has never been a `Set.LinearIndependent` abbrev, and the form it is being introduced in is `LinearIndepOn`, which allows it to apply to sets of indices. 

I suppose an unfaithful representation of a matroid `M` would correspond to a faithful representation of a matroid `N` that is below `M` in the weak order on matroids. The weak order is quite poorly behaved, but I don't see a reason this couldn't be an interesting object. And it would mean all matroids have a representation of some type.

Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/Defs.lean:55]: I expect one would prefer to use `Set.LinearIndependent` in the file [LinearAlgebra/Basis/VectorSpace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Basis/VectorSpace.html) and in [LinearIndependent.Maximal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/LinearIndependent.html#LinearIndependent.Maximal) etc. whenever `Subtype.val` appear. Notice that the `LinearIndepOn R id s` spelling won't unfold syntactically to `LinearIndependent R Subtype.val`, since `id` is not reducible, so you need a lemma to convert between them anyway.

Re: representations, it's worth noting that people also talks about "linear groups" which are groups admitting a finite-dimensional faithful representation over a field.

Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/Defs.lean]: [fd3cb6a](https://github.com/leanprover-community/mathlib4/pull/20887/commits/fd3cb6a7512647c61597babf43cfbd14268e7d22) removes `Set.AlgebraicIndependent` and introduces `AlgebraicIndepOn`.

**Comment by alreadydone** [comment]
> Is this ready for review yet or are you planning to split this up further?

Yeah it's ready for review and I had no plan to split it up further.

> I think a nice split might be to move everything changed in `Mathlib/RingTheory/AlgebraicIndependent/TranscendenceBasis.lean` into a new PR.

Okay, changes in that file are now split to #23539.

File: Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean [hunk 12]
```diff
@@ -70,30 +73,85 @@ theorem isEmpty_of_isAlgebraic [Algebra.IsAlgebraic R A] : IsEmpty ι := by
 
 end AlgebraicIndependent
 
+theorem trdeg_eq_zero [Algebra.IsAlgebraic R A] : trdeg R A = 0 :=
+  bot_unique <| ciSup_le' fun s ↦ have := s.2.isEmpty_of_isAlgebraic; (Cardinal.mk_eq_zero _).le
+
+variable (R A) in
+theorem zero_lt_trdeg [Algebra.Transcendental R A] : 0 < trdeg R A :=
```
Comment (erdOne) [inline Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean:80]:
```suggestion
theorem trdeg_pos [Algebra.Transcendental R A] : 0 < trdeg R A :=
```

File: Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean [hunk 13]
```diff
@@ -106,21 +164,60 @@ theorem algebraicIndependent_of_finite' (s : Set A)
...
+  by_cases hx : AlgebraicIndependent R x; swap
+  · exact ⟨fun h ↦ (hx <| by apply h.comp _ Sum.inr_injective).elim, fun h ↦ (hx h.1).elim⟩
+  let e := (sumAlgEquiv R ι' ι).trans (mapAlgEquiv _ hx.aevalEquiv)
+  have : aeval (Sum.elim y x) = ((aeval y).restrictScalars R).comp e.toAlgHom := by
+    ext (_|_) <;> simp [e, algebraMap_aevalEquiv]
+  simp_rw [hx, AlgebraicIndependent, this]; simp
+
+theorem iff_adjoin_image (s : Set ι) :
+    AlgebraicIndependent R x ↔ AlgebraicIndependent R (fun i : s ↦ x i) ∧
+      AlgebraicIndependent (adjoin R (x '' s)) fun i : ↥sᶜ ↦ x i := by
```
Comment (erdOne) [inline Mathlib/RingTheory/AlgebraicIndependent/Transcendental.lean:178]:
```suggestion
    AlgebraicIndependent R x ↔ AlgebraicIndepOn R x s ∧
      AlgebraicIndependent (adjoin R (x '' s)) x (sᶜ) := by
```
Same below

File: Mathlib/RingTheory/AlgebraicIndependent/Basic.lean [hunk 14]
```diff
@@ -34,9 +30,17 @@ noncomputable section
...
-variable {ι ι' R K A A' : Type*} {x : ι → A}
+universe u v v'
+
+variable {ι : Type u} {ι' R : Type*} {A : Type v} {A' : Type v'} {x : ι → A}
 variable [CommRing R] [CommRing A] [CommRing A'] [Algebra R A] [Algebra R A']
 
+variable (R A) in
+/-- The transcendence degree of a commutative algebra `A` over a commutative ring `R` is
+defined to be the maximal cardinality of an `R`-algebraically independent set in `A`. -/
+@[stacks 030G] def Algebra.trdeg : Cardinal :=
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/AlgebraicIndependent/Basic.lean:41]: Also are there plans for `fintrdeg`?

File: Mathlib/RingTheory/AlgebraicIndependent/Basic.lean [hunk 15]
```diff
@@ -236,14 +273,83 @@ theorem algebraicIndependent_empty_iff :
...
 end Subtype
 
-theorem AlgebraicIndependent.to_subtype_range {ι} {f : ι → A} (hf : AlgebraicIndependent R f) :
-    AlgebraicIndependent R ((↑) : range f → A) := by
+theorem AlgebraicIndependent.to_subtype_range (hx : AlgebraicIndependent R x) :
+    AlgebraicIndependent R ((↑) : range x → A) := by
+  nontriviality R
+  rwa [algebraicIndependent_subtype_range hx.injective]
+
+theorem AlgebraicIndependent.to_subtype_range' (hx : AlgebraicIndependent R x) {t}
```
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/Basic.lean:281]: It's an existing theorem, just moved up, and it's in [nolints_prime_decls.txt](https://github.com/leanprover-community/mathlib4/blob/388a6d19f8c4b74c27371be43657e9bf7a14119b/scripts/nolints_prime_decls.txt#L144).

File: Mathlib/RingTheory/AlgebraicIndependent/Basic.lean [hunk 16]
```diff
@@ -47,6 +51,10 @@ theorem algebraicIndependent_empty_type_iff [IsEmpty ι] :
     AlgebraicIndependent R x ↔ Injective (algebraMap R A) := by
   rw [algebraicIndependent_iff_injective_aeval, MvPolynomial.aeval_injective_iff_of_isEmpty]
 
+theorem Function.Injective.nonempty_algebraicIndependent (inj : Injective (algebraMap R A)) :
```
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/RingTheory/AlgebraicIndependent/Basic.lean]: I'd expect we'll need to consider injective maps between domains often, as it's inconvenient to pass to the extension of fields of fractions. But at least for inclusion of a subdomain we can still get FaithfulSMul from an instance.

**Review by erdOne — APPROVED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
